US06423699B1
6-(4-Chloro-phenyl)-3-methyl-3,4-dihydro-1H-quinoxalin-2-one
A solution of 6-bromo-3-methyl-3,4-dihydro-1H-quinoxalin-2-one ( 2.4 g, 10 mmol), 4-chlorophenyl boronic acid ( 1.6 g, 10 mmol ), potassium carbonate ( 4 g, 30 mmol), and tetrakis-(triphenylphosphine)palladium (0) in dimethoxyethane ( 150 ml), ethanol (25 ml), and water (25 ml) was heated to reflux for .6 hours. After cooling to room temperature the mixture was diluted with water, and extracted with ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated to obtain crude product (0.83 g, 30%). A sample was recrystallized from ethanol to afford the title compound: m.p. 228-230° C. 1H-NMR (DMSO-d6) δ 1.28 (d, J=6.63 Hz, 3H), 3.83 (q, J=6.63 Hz, 1H), 6.16 (bs, 1H), 6.81 (d, J=8.00 Hz, 1H), 6.91 (dd, J=8.05, 1.9 Hz, 1H), 6.95 (d, J=1.7 Hz, 1H), 7.46 (d, J=8.6 Hz, 2H), 7.55 (d, J=8.6 Hz, 2H), 10.32 (s, 1H); MS (EI) m/z 272/274.

reactant | 6-bromo-3-methyl-3,4-dihydro-1H-quinoxalin-2-one | 10 mmol, 2.4 g | BrC=1C=C2NC(C(NC2=CC1)=O)C | C9H9BrN2O
reactant | 4-chlorophenyl boronic acid | 10 mmol, 1.6 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 30 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 150 ml | C(OC)COC | C4H10O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 25 ml | O | H2O
product | 6-(4-Chloro-phenyl)-3-methyl-3,4-dihydro-1H-quinoxalin-2-one | ClC1=CC=C(C=C1)C=1C=C2NC(C(NC2=CC1)=O)C | C15H13ClN2O
